US06017919
Pentyltriphenylphosphonium bromide (1.17 g, 2.83 mmol) and ether (5 ml) were mixed, and to this solution was added a hexane solution (1.6M, 1.77 ml) of n-butyllithium (2.83 mmol). The mixture was stirred at room temperature for 2 hours. A THF solution (3 ml) of 5-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)-2-methoxybenzaldehyde (600.8 mg, 2.58 mmol) was added to this solution, and the mixture was stirred for 1.5 hours. Water (5 ml) was added to stop the reaction. The aqueous layer was extracted 3 times with ethyl acetate (5 ml). The organic layers were combined, and washed twice with saturated brine (20 ml1). This solution was dried over anhydrous magnesium sulfate, and the drying agent was filtered off. The filtrate was concentrated under reduced pressure, and the obtained residue was purified by column chromatography (hexane/ethyl acetate=2/1) to give 2-[3-(1-hexenyl)-4-methoxyphenyl]-4,4-dimethyl-4,5-dihydrooxazole (583.3 mg, 79%) as a mixture (a colorless oil) of geometrical isomers (1:1).

reactant | Pentyltriphenylphosphonium bromide | 2.83 mmol, 1.17 g | [Br-].C(CCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | ether | 5 ml | CCOCC | C4H10O
reactant | n-butyllithium | 2.83 mmol | C(CCC)[Li]
reactant | 5-(4,4-dimethyl-4,5-dihydrooxazol-2-yl)-2-methoxybenzaldehyde | 2.58 mmol, 600.8 mg | CC1(N=C(OC1)C=1C=CC(=C(C=O)C1)OC)C | C13H15NO3
solvent | Water | 5 ml | O | H2O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | hexane | 1.6M, 1.77 ml | CCCCCC | C6H14
product | 2-[3-(1-hexenyl)-4-methoxyphenyl]-4,4-dimethyl-4,5-dihydrooxazole | 583.3 mg, 79% | C(=CCCCC)C=1C=C(C=CC1OC)C=1OCC(N1)(C)C | C18H25NO2
